US09056874B2
(±)-2-(5-Methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (36 mg, 0.068 mmol) in THF (0.5 mL), TBAF (1M in THF, 1.37 mL, 1.37 mmol) was added. The reaction was stirred at 75° C. for 30 min. The reaction mixture was cooled to room temperature, diluted with brine, and the layers were separated. The aqueous layer was extracted with ethyl acetate and dried over Na2SO4. After concentration, the residue was purified via silica gel flash chromatography (heptanes/((30% EtOAc in CH2Cl2)=0 to 100%) to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 10.09 (br. s., 1H), 8.06 (s, 1H), 7.70 (d, J=8.5 Hz, 1H), 7.58 (dd, J=8.5, 1.5 Hz, 1H), 7.54-7.57 (m, 1H), 7.53 (d, J=0.8 Hz, 1H), 7.00-7.04 (m, 1H), 2.63 (d, J=0.8 Hz, 3H). HRMS calcd. for C20H11F3N4O2 (M+H)+ 397.0907. found 397.0902.

reactant | (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C=C2C(=C3C=CNC13)C(OC2=O)(C(F)(F)F)C2=NC1=C(N2COCC[Si](C)(C)C)C=CC(=C1)C#N | C26H25F3N4O3Si
reactant | (±)-2-(5-methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.068 mmol, 36 mg | CC=1C=C2C(=C3C=CNC13)C(OC2=O)(C(F)(F)F)C2=NC1=C(N2COCC[Si](C)(C)C)C=C(C=C1)C#N | C26H25F3N4O3Si
reactant | TBAF | 1.37 mmol, 1M, 1.37 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (±)-2-(5-Methyl-3-oxo-1-(trifluoromethyl)-3,6-dihydro-1H-furo[3,4-e]indol-1-yl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C=C2C(=C3C=CNC13)C(OC2=O)(C(F)(F)F)C2=NC1=C(N2)C=CC(=C1)C#N | C20H11F3N4O2
